US06562989B2
N-n-hexyl-3-methoxyaniline(Table 7, Entries 7 and 8)
3-Chloroanisole (74 mg, 0.52 mmol) reacted with n-hexylamine (65 mg, 0.64 mmol) according to procedure B using 1 mol % of Pd(dba)2, 2 mol % of Ph5FcP(t-Bu)2, and sodium tert-butoxide (58 mg, 0.60 mmol) in toluene at 100° C. to give the title compound (103 mg, 95%) as a colorless oil. Also 3-bromoanisole was converted to the title amine in 85% yield by procedure A: 1H-NMR (400 MHz, CDCl3): δ 6.99 (t, 1H, J=8.0 Hz), 6.19-6.13 (m, 2H), 6.08 (app.t, 1H, J=2.4 Hz), 3.70 (s, 3H), 3.55 (bs, 1H), 3.01 (t, 2H, J=7.2 Hz), 1.53 (m, 2H), 1.33 (m, 2H), 1.24 (m, 4H), 0.83 (t, 3H, J=6.8 Hz). 13C{1H}-NMR (100 MHz, CDCl3): δ 160.81, 149.91, 129.87, 105.86, 102.09, 98.53, 55.01, 43.95, 31.61, 29.47, 26.81, 22.60, 14.01. GC/MS(EI): m/z 207 (M+), 136. Anal. Calcd for C13H21NO: C, 75.23; H, 10.21; N, 6.76. Found: C,75.25; H, 10.33; N, 6.86.

reactant | 3-Chloroanisole | 0.52 mmol, 74 mg | ClC=1C=C(C=CC1)OC | C7H7ClO
reactant | n-hexylamine | 0.64 mmol, 65 mg | C(CCCCC)N | C6H15N
reactant | sodium tert-butoxide | 0.60 mmol, 58 mg | CC(C)([O-])C.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dba)2 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | N-n-hexyl-3-methoxyaniline | 103 mg, 95% | C(CCCCC)NC1=CC(=CC=C1)OC | C13H21NO
